US05405839
To a solution of 1.7 g of imidazole dissolved in 125 ml of dioxane was added 17.25 g of potassium carbonate, and further, 13.8 ml of 3-chloro-1-propanol was added dropwise, followed by heating under reflux for 7.5 hours. The reaction mixture obtained was filtrated to remove potassium carbonate, the reaction stopped by an addition of water, and the pH adjusted to 2.5 before the reaction mixture was applied to an ion exchange column (Dowex 50 (hydrogen ion form)). Elution was effected successively with water, 30% ethanol, and ammonical 30% ethanol, and the fractions eluted with ammonical 30% ethanol were concentrated, the concentrate was applied to a phosphocellulose column (pH 8), and the fractions passed as such were concentrated to dryness under a reduced pressure, whereby 2.5 g of purified 1-(3-hydroxypropyl)imidazole was obtained.

reactant | imidazole | 1.7 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 17.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-propanol | 13.8 ml | ClCCCO | C3H7ClO
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 1-(3-hydroxypropyl)imidazole | 2.5 g | OCCCN1C=NC=C1 | C6H10N2O
